US04985419
Sodium hydride (1.85 g; in 50% strength dispersion in vaseline) is added slowly in the course of 10 minutes to a solution of 7-chloro-2-phenothiazinecarbonitrile (10 g) in N,N-dimethylformamide (250 cc). The mixture is then brought to 120° C. and treated in the course of 30 minutes with a solution of ethyl (2RS)-2-chloropropionate (18.5 cc) in N,N-dimethylformamide (100 cc). Heating is continued for 2 hours. After cooling, the mixture is diluted in ethyl acetate (1 liter) and washed with distilled water (1.5 liters). The organic phase is dried over magnesium sulphate, treated with charcoal 3S, filtered and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 50° C. to give a residue which is purified by chromatography on a column (height: 25 cm; diameter: 4.0 cm) of silica (0.2-0.06 mm), eluting with a 90:10 (by volume) mixture (1.5 liters) of cyclohexane and ethyl acetate and collecting 100-cc fractions. Fractions 6 to 11 are combined and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) to give ethyl (2RS)-2-(7-chloro-2-cyano-10-phenothiazinyl)propionate (5.3 g) in the form of a pale yellow product of meringue-like consistency.

reactant | Sodium hydride | 1.85 g | [H-].[Na+]
reactant | 7-chloro-2-phenothiazinecarbonitrile | 10 g | ClC=1C=C2SC=3C=CC(=CC3NC2=CC1)C#N | C13H7ClN2S
reactant | ethyl (2RS)-2-chloropropionate | 18.5 cc | ClC(C(=O)OCC)C | C5H9ClO2
solvent | N,N-dimethylformamide | 250 cc | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 100 cc | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 1 liter | C(C)(=O)OCC | C4H8O2
product | ethyl (2RS)-2-(7-chloro-2-cyano-10-phenothiazinyl)propionate | 5.3 g | ClC=1C=C2SC=3C=CC(=CC3N(C2=CC1)C(C(=O)OCC)C)C#N | C18H15ClN2O2S
